US06797706B1
To an acetonitrile solution of 3,5-dichloropyrazine-2-carboxamide were added 3-methylaniline and N,N-diisopropylethylamine, followed by heating to reflux for 17 hours. Thereafter, purification in the usual way afforded 5-chloro-3-(3-methylanilino)pyrazine-2-carboxamide (yellow solid).

reactant | 3,5-dichloropyrazine-2-carboxamide | ClC=1C(=NC=C(N1)Cl)C(=O)N | C5H3Cl2N3O
reactant | 3-methylaniline | CC=1C=C(N)C=CC1 | C7H9N
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-chloro-3-(3-methylanilino)pyrazine-2-carboxamide | ClC=1N=C(C(=NC1)C(=O)N)NC1=CC(=CC=C1)C | C12H11ClN4O
